US08461134B2
2-Fluoro-N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-4-nitrobenzenesulfonamide
To a stirred solution of 2-fluoro-4-nitrobenzene-1-sulfonyl chloride (1.336 g, 5.57 mmol) and 6-amino-5-fluorobenzo[c][1,2]oxaborol-1(3H)-ol (0.93 g, 5.57 mmol) in 20 mL of ACN was added pyridine (900 uL, 11.14 mmol) dropwise. The reaction mixture was stirred at room temperature for 16 hours. After quenched with water, the solvent was removed in vacuo. The residue was extracted with ethyl acetate three times, and washed with water and brine. The organic layer was dried over Na2SO4, and concentrated to give 1.84 g of the title compound as a yellow residue. MS calcd for (C13H9BF2N2O6S): 370.0. MS found (ESI negative): (M−H)−=368.9

reactant | 2-fluoro-4-nitrobenzene-1-sulfonyl chloride | 5.57 mmol, 1.336 g | FC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClFNO4S
reactant | 6-amino-5-fluorobenzo[c][1,2]oxaborol-1(3H)-ol | 5.57 mmol, 0.93 g | NC=1C(=CC2=C(B(OC2)O)C1)F | C7H7BFNO2
reactant | pyridine | 11.14 mmol, 900 uL | N1=CC=CC=C1 | C5H5N
solvent | ACN | 20 mL | C(C)#N | C2H3N
product | 2-Fluoro-N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-4-nitrobenzenesulfonamide | 1.84 g | FC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)NC=1C(=CC2=C(B(OC2)O)C1)F | C13H9BF2N2O6S
